US07560558B2
Compound 6: 6,7-Dimethoxy-4-[4-methyl-2-(piperidinomethyl)phenoxy]-quinoline
2-[(6,7-Dimethoxy-4-quinolyl)oxy]-5-methylbenzaldehyde (88.6 mg) was dissolved in methanol (5 ml). Piperidine (250 mg) was then added to the solution, and the mixture was stirred at room temperature for 10 min. Further, sodium borohydride (17.5 mg) was added thereto, and the mixture was stirred at room temperature for 20 min. Ethyl acetate and water were added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-hexane to give the title compound (71 mg, yield 66%).

reactant | 2-[(6,7-Dimethoxy-4-quinolyl)oxy]-5-methylbenzaldehyde | 88.6 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=O)C=C(C=C1)C | C19H17NO4
reactant | Piperidine | 250 mg | N1CCCCC1 | C5H11N
reactant | sodium borohydride | 17.5 mg | [BH4-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | 5 ml | CO | CH4O
solvent | water | O | H2O
product | 6,7-Dimethoxy-4-[4-methyl-2-(piperidinomethyl)phenoxy]-quinoline | 71 mg, yield 66% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)C)CN1CCCCC1 | C24H28N2O3
